US05420276
N6-Benzoyl-5'-O-(t-butyldimethylsilyl)-2',3'-dideoxy-2'-oxoadenosine
To a stirred solution of 2.0 g (5.47 mmol) 5'-O-(t-butyldimethylsilyl)-3'-deoxyadenosine, the product of Example 13, in 11 mL of pyridine at room temperature was added 2.5 mL (21.9 mmol) of benzoyl chloride. After 2 h, 1 mL of methanol was added, the reaction mixture was diluted with ether, washed successively with water and 50% saturated aqueous sodium bicarbonated, and dried over magnesium sulfate. The organic phase was evaporated under reduced pressure and then coevaporated with several portions of n-heptane to afford 3.9 g of a foam. To a stirred solution of 3.8 g of this residue in 44 ml of dioxane were added 16.8 mL of 1N aqueous NaOH. After 2 hours 5.6 mL additional 1N aqueous NaOH were added, After a total of 2.5 hours, the reaction mixture was neutralized with acetic acid, diluted with EtOAc, washed successively with water and saturated aqueous NaCl, dried over magnesium sulfate, and then concentrated under reduced pressure. Chromatography of the residue on silica gel with a 100:0 to 95:5 EtOAc/MeOH gradient afforded 1.94 g (75%) of N6-benzoyl-5'-O-(t-butyldimethylsilyl)-3'-deoxyadenosine. To a stirred solution of 880 mg (1.87 mmol) of N6-benzoyl-5'-O-(t-butyldimethylsilyl)-3'-deoxyadenosine in 9 mL of DMSO and 9 mL of benzene at room temperature containing 1.80 g (9.37 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride were added 4 portions of 0.031 mL (0.37 mmol) of dichloroacetic acid at 15 minute intervals. Fifteen minutes after the final addition, the reaction mixture was diluted with dichloromethane and washed with water adjusted to pH 3 with 1N aqueous HCl. The aqueous phase was extracted several times with dichloromethane, the combined organic extracts dried over magnesium sulfate, and then concentrated under reduced pressure. Chromatography of the residue on silica gel with a 75:25 to 100:0 EtOAc/hexane gradient afforded 694 mg (79%) of the title compound: Colorless glass. Rf =0.40 (SG, EtOAc); [α]D23 -17.0° (c 1.25, CHCl3); IR (CDCl3) 3415, 2960, 2935, 2860, 1775, 1710, 1610, 1590, 1455, 1255, 1240, 1070 cm-1 ; 1H-NMR (300 MHz, CDCl3, TMS=0.00 ppm) δ0.05, 0.07 (2s, 6H, (CH3)2Si), 0.90 (s, 9H, (CH3)3CSi), 2.86 (dd, 1H, J=19.0 Hz, J'=7.5 Hz, 3'-H), 3.16 (dd, 1H, J=19.0 Hz, J'=7.5 Hz, 3'-H), 3.88 (dd, 1H, J=11.5 Hz, J'=4.0 Hz, 5'-H), 4.02 (dd, 1H, J=11.5 Hz, J'=3.5 Hz, 5'-H), 4.66 (dddd, 1H, J=J'=7.5 Hz, J"=4.0 Hz, J' "=3.5 Hz, 4'-H), 6.06, (s, 1H, 1'-H), 7.52 (m, 2H, m-C6H5), 7.61 (m, 1H, p-C6H5), 8.02 (m, 2H, o-C6H5), 8.11, 8.78 (2s, 2H, 2-H, 8-H), 9.03 (bs, 1H, NH) DCI/NH3MS, m/z 468 (M+H)+, 240; exact mass calcd for C23H30N5O4Si (M+H)+ : 468.2067, found: 468.2067.

reactant | N6-benzoyl-5'-O-(t-butyldimethylsilyl)-3'-deoxyadenosine | 1.87 mmol, 880 mg | C(C1=CC=CC=C1)(=O)NC=1C=2N=CN([C@H]3[C@H](O)C[C@@H](CO[Si](C)(C)C(C)(C)C)O3)C2N=CN1 | C23H31N5O4Si
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 9.37 mmol, 1.80 g | Cl.CN(CCCN=C=NCC)C
reactant | dichloroacetic acid | 0.37 mmol, 0.031 mL | ClC(C(=O)O)Cl | C2H2Cl2O2
solvent | DMSO | 9 mL | CS(=O)C | C2H6OS
solvent | benzene | 9 mL | C1=CC=CC=C1 | C6H6
solvent | dichloromethane | ClCCl | CH2Cl2
product | N6-Benzoyl-5'-O-(t-butyldimethylsilyl)-2',3'-dideoxy-2'-oxoadenosine | 694 mg, 79% | C(C1=CC=CC=C1)(=O)NC=1C=2N=CN([C@H]3C(C[C@@H](CO[Si](C)(C)C(C)(C)C)O3)=O)C2N=CN1 | C23H29N5O4Si
